US04673676
To a stirred mixture of ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (140 mg) and iron powder (90 mg) in a mixture of water (0.5 ml) and ethanol (13 ml) was added a solution of ammonium chloride (90 mg) in water (0.5 ml) under refluxing. After refluxing for 1 hour and 50 minutes, ammonium chloride (28 mg) in water (0.5 ml) and iron (50 mg) was added, and then the mixture was stirred for additional 1 hour. The reaction mixture was filtered and the residue on a filter was washed with hot ethanol. The filtrate was concentrated in vacuo and then treated with dilute sodium hydrogen carbonate solution to give crude product. Chromatography on silica gel with chloroform-methanol gave pure ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate (100 mg).

reactant | ethyl 7-methyl-10-nitro-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 140 mg | CC1=CN2C(C3=CC(=CC=C13)[N+](=O)[O-])=NC=C(C2=O)C(=O)OCC | C16H13N3O5
reactant | ammonium chloride | 90 mg | [Cl-].[NH4+]
reactant | ammonium chloride | 28 mg | [Cl-].[NH4+]
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | 0.5 ml | O | H2O
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | water | 0.5 ml | O | H2O
solvent | water | 0.5 ml | O | H2O
catalyst | iron | 90 mg | [Fe] | Fe
catalyst | iron | 50 mg | [Fe] | Fe
product | ethyl 10-amino-7-methyl-4-oxo-4H-pyrimido[2,1-a]isoquinoline-3-carboxylate | 100 mg | NC1=CC=C2C(=CN3C(C2=C1)=NC=C(C3=O)C(=O)OCC)C | C16H15N3O3
